US07067517B2
Methyl-phenyl-carbamic acid 4-[2-(4-imidazol-1-yl-phenoxy)-ethyl]-phenyl ester
The title compound was prepared as its TFA salt in 62% yield as an oil using methyl-phenyl-carbamic acid 4-(2-hydroxy-ethyl)-phenyl ester and 4-imidazol-1-yl-phenol.

reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | methyl-phenyl-carbamic acid 4-(2-hydroxy-ethyl)-phenyl ester | OCCC1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C16H17NO3
reactant | 4-imidazol-1-yl-phenol | N1(C=NC=C1)C1=CC=C(C=C1)O | C9H8N2O
product | Methyl-phenyl-carbamic acid 4-[2-(4-imidazol-1-yl-phenoxy)-ethyl]-phenyl ester | 62% yield | N1(C=NC=C1)C1=CC=C(OCCC2=CC=C(C=C2)OC(N(C2=CC=CC=C2)C)=O)C=C1 | C25H23N3O3
